US04474777
A solution of 5 g of 1-[(S)-6-bromo-5-(o-chlorophenyl)-2,3-dihydro-1,3-dimethyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-3-[1,1-bis(hydroxymethyl)ethyl]urea in pyridine is treated with 4 ml of acetic anhydride, the mixture is stirred at room temperature for 1 hour, treated with water and extracted with methylene chloride. The organic phase is dried over sodium sulphate and evaporated, whereupon the residue is chromatographed on silica gel while eluting with chloroform and then recrystallized from petroleum ether. There is obtained (S)-N-[2-(acetyloxy)-1-[(acetyloxy)methyl]-1-methylethyl]-N'-[6-bromo-5-(o-chlorophenyl)-2,3-dihydro-1,3-dimethyl-2-oxo-1H-1,4-benzodiazepin-7-yl]urea of melting point 105°-107° (decomposition); [α]25D =+33.75° (0.8 percent solution in methylene chloride).

reactant | 1-[(S)-6-bromo-5-(o-chlorophenyl)-2,3-dihydro-1,3-dimethyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-3-[1,1-bis(hydroxymethyl)ethyl]urea | 5 g | BrC1=C(C=CC2=C1C(=N[C@H](C(N2C)=O)C)C2=C(C=CC=C2)Cl)NC(=O)NC(C)(CO)CO | C22H24BrClN4O4
reactant | acetic anhydride | 4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | (S)-N-[2-(acetyloxy)-1-[(acetyloxy)methyl]-1-methylethyl]-N'-[6-bromo-5-(o-chlorophenyl)-2,3-dihydro-1,3-dimethyl-2-oxo-1H-1,4-benzodiazepin-7-yl]urea | C(C)(=O)OCC(C)(COC(C)=O)NC(=O)NC=1C=CC2=C(C(=N[C@H](C(N2C)=O)C)C2=C(C=CC=C2)Cl)C1Br | C26H28BrClN4O6
